US07361669B2
Step B: Preparation of 4-Pyridin-4-yl-1H-imidazole-2-thiol
2-Amino-1-pyridin-4-yl-ethanone hydrochloride (0.75 g, 4.348 mMol) was dissolved in water (15 mL), and to clear yellow solution was added potassium thiocyanate (0.7 g, 7.203 mMol). The mixture was heated to reflux for 4.0 h during which period HPLC showed complete disappearance of starting material. On cooling to room temperature, a yellow solid precipitate formed, which was collected by filtration. The solid was then re-suspended in a saturated solution of NaHCO3 (30 mL), stirred at room temperature for 0.5 h, and the resulting free base thiol was collected by filtration. The solid was dried under vacuum to yield 576 mg (59%) of a fluorescent yellow solid. MS(ES) 178 (M+H)

reactant | 2-Amino-1-pyridin-4-yl-ethanone hydrochloride | 4.348 mMol, 0.75 g | Cl.NCC(=O)C1=CC=NC=C1
reactant | potassium thiocyanate | 7.203 mMol, 0.7 g | [S-]C#N.[K+]
solvent | water | 15 mL | O | H2O
product | 4-Pyridin-4-yl-1H-imidazole-2-thiol | 576 mg, 59% | N1=CC=C(C=C1)C=1N=C(NC1)S | C8H7N3S
